US07667041B2
Synthesis of (E)-1-[(1R)-1-(3-fluorophenyl)ethyl)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one
To a DMF (3 mL) solution of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetic acid salt (100 mg) obtained according to the method described in Example 418 and (S)-1-(3-fluorophenyl)ethylamine hydrochloric acid salt(31 mg), IPEA (0.2 mL) and HOBT (36 mg) and EDC (51 mg) were added, and the reaction solution was agitated at room temperature for 3 hours. Saturated sodium bicarbonate water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The organic layer obtained was dried over magnesium sulfate and concentrated under reduced pressure. By purifying the residue with silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane:ethyl acetate 1:1→ethyl acetate), 79 mg of 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid ((1S)-1-(3-fluorophenyl)ethyl)amide was obtained. Sodium hydride (40% mineral oil content, 8 mg) was added to the DMF (3 mL) solution of 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid ((1S)-1-(3-fluorophenyl)ethyl)amide obtained, and the reaction solution was agitated at room temperature for 5 minutes. Water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The organic layer obtained was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane:ethyl acetate system 1:1→ethyl acetate) to obtain 48 mg of the racemic title compound. The physical properties of the compound are as follows.

reactant | Sodium hydride | 8 mg | [H-].[Na+]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid ((1S)-1-(3-fluorophenyl)ethyl)amide | FC=1C=C(C=CC1)[C@H](C)NC(C(CCCCl)=CC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C25H27ClFN3O2
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-1-[(1R)-1-(3-fluorophenyl)ethyl)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one | 48 mg | FC=1C=C(C=CC1)[C@@H](C)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C25H26FN3O2
